US03998959
A 1 g sample of 4,5,6,7-tetrahydro-7-methoxybenzo[b]thiophen-4-amine is added to 18 ml of 12.5% phosgene solution (benzene) in a nitrogen atmosphere at 20° C. After stirring at room temperature for an hour, the mixture is heated to 60° C and kept at this temperature for 7 hours. The mixture is cooled to room temperature and evaporated to dryness in vacuo to afford the crude 4,5,6,7-tetrahydro-7-methoxybenzo[b]thien-4-ylisocyanate.

reactant | 4,5,6,7-tetrahydro-7-methoxybenzo[b]thiophen-4-amine | COC1CCC(C2=C1SC=C2)N | C9H13NOS
reactant | phosgene | 18 ml | C(=O)(Cl)Cl | CCl2O
product | 4,5,6,7-tetrahydro-7-methoxybenzo[b]thien-4-ylisocyanate | COC1CCC(C2=C1SC=C2)N=C=O | C10H11NO2S
